US08669361B2
1,3-Dibromobenzene (0.2 g, 0.85 mmol), (R)-tert-butyl pyrrolidin-3-ylmethylcarbamate (0.17 g, 0.85 mmol), Pd2(dba)3 (39 mg, 0.04 mmol), BINAP (40 mg, 0.06 mmol) and sodium tert-butoxide (98 mg, 1.02 mmol) were suspended in toluene (2 mL). The mixture was heated at 80° C. for 16 hr. The mixture was cooled and diluted with water and EtOAc. The organic layer was separated, passed through a phase separator cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave (R)-tert-butyl (1-(3-bromophenyl)pyrrolidin-3-yl)methylcarbamate as a yellow oil (0.179 g, 59%). This oil (0.179 g, 0.5 mmol) was suspended in 1,4-dioxane (2 mL). Bis-pinacolato-diboron (0.166 g, 0.66 mmol), potassium acetate (65 mg, 0.66 mmol) and Pd(dppf)Cl2 (20 mg, 0.025 mmol) were added and the mixture was heated at 100° C. for 16 h. The solution was cooled, diluted with DCM and filtered through celite. The solvent was removed under reduced pressure to afford crude (R)-tert-butyl (1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidin-3-yl)methylcarbamate as a brown oil. A mixture of this oil (0.5 mmol), tert-butyl 2-bromo-4-(1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate (0.177 g, 0.44 mmol), Na2CO3 (0.7 mL, 2M aq. solution, 1.32 mmol) in DME (4.3 mL) was degassed by gently bubbling nitrogen through the mixture for 15 min. [1,1′-Bis(diphenylphosphino)ferrocene]dichloro-palladium(II) (72 mg, 0.09 mmol) was added and the mixture degassed for a further 10 min before being heated in a microwave at 130° C. for 40 min. The solvents were removed under reduced pressure and the residue purified via silica gel column chromatography (0-100% EtOAc/isohexane) to yield (R)-tert-butyl 2-(3-(3-(butyloxycarbonylaminomethyl)pyrrolidin-1-yl)phenyl)-4-(1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a yellow oil (86 mg, 33%). 1H NMR (400 MHz, CDCl3) δ 10.38 (s, 1H), 8.90 (s, 1H), 7.98 (s, 1H), 7.58 (s, 1H), 7.00 (s, 1H), 6.63-6.57 (m, 1H), 4.71-4.69 (m, 1H), 3.92 (s, 3H), 3.59-3.36 (m, 5H), 2.67-2.46 (m, 1H), 2.14-2.13 (m, 1H), 1.84-1.80 (m, 1H), 1.55 (s, 9H), 1.54 (s, 9H). Three protons not seen

reactant | 1,3-Dibromobenzene | 0.85 mmol, 0.2 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | (R)-tert-butyl pyrrolidin-3-ylmethylcarbamate | 0.85 mmol, 0.17 g | N1C[C@@H](CC1)CNC(OC(C)(C)C)=O | C10H20N2O2
reactant | BINAP | 0.06 mmol, 40 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 1.02 mmol, 98 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.04 mmol, 39 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-tert-butyl (1-(3-bromophenyl)pyrrolidin-3-yl)methylcarbamate | 0.179 g, 59% | BrC=1C=C(C=CC1)N1C[C@H](CC1)CNC(OC(C)(C)C)=O | C16H23BrN2O2
